US04906643
To a stirred solution of 2.37 parts of trans-4-amino-1-[2-(2-pyrimidinylamino)ethyl]-3-piperidinol in 120 parts of trichloromethane were added 2.08 parts of 3-(trifluoromethyl)benzoyl chloride. The whole was stirred for 15 minutes in an ice bath. After the addition of 1.26 parts of N,N-diethylethanamine, stirring was continued for 18 hours and the temperature was allowed to reach room temperature. The reaction mixture was washed with a sodium carbonate solution and water, dried, filtered and evaporated. The residue was purified by column chromatography over silica gel using a mixture of trichloromethane and methanol, saturated with ammonia, (95:5 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was suspended in 2,2'-oxybispropane. The product was filtered off and dried, yielding 2.07 parts (50.5%) of trans-N-[3-hydroxy-1-[2-(2-pyrimidinylamino)ethyl]-4-piperidinyl]-3-(trifluoromethyl)benzamide; mp. 148.3° C. (compound 65).

reactant | trans-4-amino-1-[2-(2-pyrimidinylamino)ethyl]-3-piperidinol | N[C@H]1[C@@H](CN(CC1)CCNC1=NC=CC=N1)O | C11H19N5O
reactant | trichloromethane | ClC(Cl)Cl | CHCl3
reactant | 3-(trifluoromethyl)benzoyl chloride | FC(C=1C=C(C(=O)Cl)C=CC1)(F)F | C8H4ClF3O
solvent | N,N-diethylethanamine | C(C)N(CC)CC | C6H15N
product | trans-N-[3-hydroxy-1-[2-(2-pyrimidinylamino)ethyl]-4-piperidinyl]-3-(trifluoromethyl)benzamide | 50.5% | O[C@@H]1CN(CC[C@H]1NC(C1=CC(=CC=C1)C(F)(F)F)=O)CCNC1=NC=CC=N1 | C19H22F3N5O2
